US04959375
3-Dimethylamino-1-(3,5-dichlorobenzoyl)piperidine
A mixture of 3 dimethylaminopiperidine dihydrochloride (0 9 g, 0.005 mol), triethylamine (1.5 g, 0.015 mol) and dichloromethane (20 ml) was stirred for 15 min. 3,5-Dichlorobenzoylchloride (1.05 g, 0.005 mol) was then added and stirring continued for a further 2 h. The solution was then washed with aqueous sodium carbonate solution, dried and evaporated. The residue was dissolved in isopropyl alcohol (15 ml) and acidified with ethanolic hydrogen chloride to precipitate the crystalline hydrochloride 1.3 g, mp 242-244° C.

reactant | dimethylaminopiperidine dihydrochloride | 0.005 mol, 9 g | Cl.Cl.CN(C)N1CCCCC1
reactant | triethylamine | 0.015 mol, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | 3,5-Dichlorobenzoylchloride | 0.005 mol, 1.05 g | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-Dimethylamino-1-(3,5-dichlorobenzoyl)piperidine | CN(C1CN(CCC1)C(C1=CC(=CC(=C1)Cl)Cl)=O)C | C14H18Cl2N2O
